US08012976B2
9-(4-Fluorophenyl)-8-(1-methyl-1H-imidazol-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of ethyl 3-(4-fluorophenyl)-2-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (200 mg, 0.5 mmol) in 85% hydrazine monohydrate (1 mL) and methanol (5 mL) was stirred at room temperature for 4 h. The resulting mixture was filtered and washed by water (20 mL) and methanol (5 mL) to obtain a white solid, which was dried in vacuum at 50° C. to obtain the title compound (25 mg, yield 14%). LC-MS (ESI) m/z: 362(M+1)+. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 3.58 (s, 3H), 4.52-4.54 (d, J=7.2 Hz, 1H), 4.94-4.97 (m, 1H), 6.69-6.70 (m, 1H), 6.96-6.97 (m, 1H), 7.04-7.08 (m, 3H), 7.18-7.22 (m, 2H), 7.36-7.38 (m, 2H), 7.51-7.55 (t, J=8.0 Hz, 1H), 12.2 (s, 1H).

reactant | ethyl 3-(4-fluorophenyl)-2-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.5 mmol, 200 mg | FC1=CC=C(C=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C=1N(C=CN1)C | C22H20FN3O3
reactant | hydrazine monohydrate | 1 mL | O.NN
solvent | methanol | 5 mL | CO | CH4O
product | 9-(4-Fluorophenyl)-8-(1-methyl-1H-imidazol-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 25 mg, yield 14% | FC1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C=2N(C=CN2)C | C20H16FN5O
